US09163021B2
N-(5-{[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)-2-(4-cyanophenyl)acetamide
Prepared according to Method Z (Preparation 8) using (5-Amino-pyridin-3-yl)-{1-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-1H-pyrrolo[3,2-c]pyridin-3-yl}-methanone (Preparation TT) and 4-cyanophenylacetic acid.

reactant | (5-Amino-pyridin-3-yl)-{1-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-1H-pyrrolo[3,2-c]pyridin-3-yl}-methanone | NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2)C(CO[Si](C)(C)C(C)(C)C)(C)C | C23H32N4O2Si
reactant | 4-cyanophenylacetic acid | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
product | N-(5-{[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)-2-(4-cyanophenyl)acetamide | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N1C=C(C=2C=NC=CC21)C(=O)C=2C=C(C=NC2)NC(CC2=CC=C(C=C2)C#N)=O | C32H37N5O3Si
